US04176009
(2) Boc-Leu-Ala-Gly-OH
Boc-Leu-Ala-Gly-OEt (4.5 g, 0.012 mol) was dissolved in methanol (20 ml), and treated with sodium hydroxide in the manner similar to that of Example 1, paragraph 4).

reactant | Boc-Leu-Ala-Gly-OEt | 0.012 mol, 4.5 g | N([C@@H](CC(C)C)C(=O)N[C@@H](C)C(=O)NCC(=O)OCC)C(=O)OC(C)(C)C | C18H33N3O6
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | Boc-Leu-Ala-Gly-OH | N([C@@H](CC(C)C)C(=O)N[C@@H](C)C(=O)NCC(=O)O)C(=O)OC(C)(C)C | C16H29N3O6
